US07091220B2
3-[(2,3-Dimethoxy-phenyl)-dimethylamino-methyl]-4,7-dihydro-1H-indole-6-carboxylic Acid
The preparation was carried out in accordance with general synthesis instructions 4 from 1H-indole-6-carboxylic acid and (2,3-dimethoxy-benzylidene)-dimethylammonium chloride, which had been prepared in accordance with example 44 from 2,3-dimethoxy-benzaldehyde and dimethylamine.

reactant | 1H-indole-6-carboxylic acid | N1C=CC2=CC=C(C=C12)C(=O)O | C9H7NO2
reactant | (2,3-dimethoxy-benzylidene)-dimethylammonium chloride | [Cl-].COC1=C(C=[N+](C)C)C=CC=C1OC
reactant | 2,3-dimethoxy-benzaldehyde | COC1=C(C=O)C=CC=C1OC | C9H10O3
reactant | dimethylamine | CNC | C2H7N
product | 3-[(2,3-Dimethoxy-phenyl)-dimethylamino-methyl]-4,7-dihydro-1H-indole-6-carboxylic Acid | COC1=C(C=CC=C1OC)C(C1=CNC=2CC(=CCC12)C(=O)O)N(C)C | C20H24N2O4
